US07618961B2
Ethyl (2-{[(4-bromo-2-fluorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 4-bromo-2-fluorobenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (15.1 mg) with purity >90%. MS (pos) m/z 423.3, 425.3.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 4-bromo-2-fluorobenzenesulfonyl chloride | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
product | Ethyl (2-{[(4-bromo-2-fluorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | BrC1=CC(=C(C=C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC)F | C13H12BrFN2O4S2
